US09289430B2
tert-butyl 3-(3-(4-chloro-2-(1-(3-(trifluoromethyl)phenyl)-1H-pyrazol-3-ylcarbamoyl)phenylcarbamoyl)benzylthio)propanoate
Into a 50-mL round bottom flask, was placed a solution of 2-amino-5-chloro-N-(1-(3-(trifluoromethyl)phenyl)-1H-pyrazol-3-yl)benzamide (191 mg, 0.50 mmol, 1.00 equiv) in dichloromethane (5 mL), pyridine (120 mg, 1.50 mmol, 3.00 equiv), and tert-butyl 3-(3-(chlorocarbonyl)benzylthio)propanoate (158 mg, 0.50 mmol, 1.00 equiv). The resulting solution was stirred for 1 h at room temperature. The resulting mixture was washed with 2×50 mL of water. The mixture was dried over sodium sulfate and concentrated under vacuum. The residue was applied onto a silica gel column and eluted with petroleum ether/ethyl acetate (20:1) to give 100 mg (30%) of product as yellow oil.

reactant | 2-amino-5-chloro-N-(1-(3-(trifluoromethyl)phenyl)-1H-pyrazol-3-yl)benzamide | 0.50 mmol, 191 mg, 1.00 equiv | NC1=C(C(=O)NC2=NN(C=C2)C2=CC(=CC=C2)C(F)(F)F)C=C(C=C1)Cl | C17H12ClF3N4O
reactant | pyridine | 1.50 mmol, 120 mg, 3.00 equiv | N1=CC=CC=C1 | C5H5N
reactant | tert-butyl 3-(3-(chlorocarbonyl)benzylthio)propanoate | 0.50 mmol, 158 mg, 1.00 equiv | ClC(=O)C=1C=C(CSCCC(=O)OC(C)(C)C)C=CC1 | C15H19ClO3S
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | tert-butyl 3-(3-(4-chloro-2-(1-(3-(trifluoromethyl)phenyl)-1H-pyrazol-3-ylcarbamoyl)phenylcarbamoyl)benzylthio)propanoate | 100 mg, 30% | ClC1=CC(=C(C=C1)NC(=O)C=1C=C(CSCCC(=O)OC(C)(C)C)C=CC1)C(NC1=NN(C=C1)C1=CC(=CC=C1)C(F)(F)F)=O | C32H30ClF3N4O4S
